US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-2-hydroxymethyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (#114)
(3S)-3-(Dimethylamino)pyrrolidine (18.2 μl, 0.143 mmol) and triethylamine (26.7 μl, 0.191 mmol) were added to a dimethyl sulfoxide (0.5 ml) solution of 7-fluoro-2-hydroxymethyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-218) (27.0 mg, 0.096 mmol), followed by stirring in an oil bath at 95° C. for 3 hours. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (10 ml), and washed with saturated brine (10 ml). After drying over anhydrous sodium sulfate and concentration, the resulting residue was purified by preparative TLC (eluent, chloroform:methanol-10:1), and the eluate was purified in slurry with diethyl ether to obtain the entitled compound (4.00 mg, 11.1%) as a pale yellow solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.143 mmol, 18.2 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 0.191 mmol, 26.7 μl | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-2-hydroxymethyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.096 mmol, 27.0 mg | FC=1C(=C(C(=C2N=C(OC21)CO)C#N)C)C2=CC=CC=C2 | C16H11FN2O2
solvent | dimethyl sulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-2-hydroxymethyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 4.00 mg, 11.1% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)CO)C#N)C)C2=CC=CC=C2)C | C22H24N4O2
